US06878714B2
To 1-methyl-4-phenylpiperidine (2.663 g, 15.19 mmol) was added carefully H2SO4 (15.2 ml). The reaction was cooled in an ice bath and a solution of H2SO4 (1.66 ml) and fuming HNO3 (0.67 ml, 15.95 mmol) was added dropwise over 45 min. The mix was stirred at 0° C. for 3 h then at RT for 1.5 h before being poured over about 90 g ice and basified with 24 g solid NaOH. The mix was extracted with CH2Cl2. The organic layer was washed with H2O, dried over Na2SO4, and concentrated in vacuo. The crude was eluted on a silica gel column with a MeOH/CH2Cl2 gradient to yield 1-methyl-4-(4-nitrophenyl)piperidine which was hydrogenated under H2 to furnish the title compound.

reactant | 1-methyl-4-phenylpiperidine | 15.19 mmol, 2.663 g | CN1CCC(CC1)C1=CC=CC=C1 | C12H17N
reactant | H2SO4 | 15.2 ml | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 1.66 ml | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 15.95 mmol, 0.67 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
product | 1-methyl-4-(4-nitrophenyl)piperidine | CN1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O2
